US07307094B2
Preparation of (S)-N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-(2-hydroxyphenyl)benzoxazole-4-carboxamide Hydrochloride
A mixture of 2-(2-hydroxyphenyl)benzoxazole-4-carboxylic acid (50 mg, 0.2 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (75 mg, 0.4 mmol), 1-hydroxybenzotriazole (57 mg, 0.4 mmol) and (S)-(−)-3-aminoquinuclidine dihydrochloride (39 mg, 0.2 mmol) in DMF (5 mL) was stirred at room temperature for 10 min, then triethylamine (0.08 mL, 0.6 mmol) was added. The resulting reaction mixture was stirred at room temperature for 12 h. The reaction mixture was diluted with ethyl acetate (50 mL), and then treated with a saturated solution of sodium bicarbonate. The organic layer was isolated and the aqueous layer was further extracted with ethyl acetate (2×50 mL). The combined organics were washed with water (2×25 mL), brine (2×25 mL), dried (Na2SO4), filtered and concentrated. The crude material was purified by semi-preparative HPLC to afford the desired product (49 mg, 68%) as a light yellow solid: 1H NMR (500 MHz, CDCl3) δ 10.43 (s, 1H), 8.37 (d, J=6.7 Hz, 1H), 8.22 (dd, J=7.8, 1.0 Hz, 1H), 8.10 (dd, J=7.9, 1.6 Hz, 1H), 7.77 (dd, J=8.1, 0.9 Hz, 1H), 7.55-7.50 (m, 2H), 7.16 (dd, J=8.6, 0.6 Hz, 1H), 7.08 (t, J=7.0 Hz, 1H), 4.40-4.30 (m, 1H), 3.63-3.55 (m, 1H), 3.22-3.20 (m, 1H), 3.07-2.90 (m, 3H), 2.87-2.80 (m, 1H), 2.22-2.17 (m, 1H), 2.02-1.92 (m, 1H), 1.85-1.78 (m, 2H), 1.73-1.65 (m, 1H); MS (ESI+) m/z 364 (M+H).

reactant | 2-(2-hydroxyphenyl)benzoxazole-4-carboxylic acid | 0.2 mmol, 50 mg | OC1=C(C=CC=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C14H9NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.4 mmol, 75 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.4 mmol, 57 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (S)-(−)-3-aminoquinuclidine dihydrochloride | 0.2 mmol, 39 mg | Cl.Cl.N[C@@H]1CN2CCC1CC2
reactant | triethylamine | 0.6 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (S)-N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-(2-hydroxyphenyl)benzoxazole-4-carboxamide Hydrochloride | 49 mg, 68% | Cl.N12C[C@H](C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=C(C=CC=C1)O | InChI=1S/C21H21N3O3.ClH/c25-17-6-2-1-4-14(17)21-23-19-15(5-3-7-18(19)27-21)20(26)22-16-12-24-10-8-13(16)9-11-24;/h1-7,13,16,25H,8-12H2,(H,22,26);1H/t16-;/m1./s1
